US08278482B2
tert-Butyl hypochlorite (0.49 mg, 4.5 mmol) was added to a stirred solution of 4-(2-amino-2-methylpropyl)-4-methylmorpholin-4-ium chloride (380 mg, 1.8 mmol) in methanol (25 ml) and stirred for 1 hour at room temperature. The reaction mixture was concentrated in vacuo, and purified by prep-HPLC to give 64 mg (13% yield) of 4-(2-(dichloroamino)-2-methylpropyl)-4-methylmorpholin-4-ium chloride. 1H NMR (D2O) δ 4.16-3.98 (m, 4 H), 3.86 (s, 2 H), 3.78-3.58 (m, 4 H), 3.43 (s, 3 H), 1.66 (s, 6H); MS (ESI+) calculated for C9H19Cl2N2O+: 241.09, Found: 241 (M+).

reactant | tert-Butyl hypochlorite | 4.5 mmol, 0.49 mg | ClOC(C)(C)C | C4H9ClO
reactant | 4-(2-amino-2-methylpropyl)-4-methylmorpholin-4-ium chloride | 1.8 mmol, 380 mg | [Cl-].NC(C[N+]1(CCOCC1)C)(C)C
solvent | methanol | 25 ml | CO | CH4O
product | 4-(2-(dichloroamino)-2-methylpropyl)-4-methylmorpholin-4-ium chloride | 64 mg, 13% yield | [Cl-].ClN(C(C[N+]1(CCOCC1)C)(C)C)Cl | InChI=1S/C9H19Cl2N2O.ClH/c1-9(2,12(10)11)8-13(3)4-6-14-7-5-13;/h4-8H2,1-3H3;1H/q+1;/p-1
